US07371743B2
(a) methyl 4-(3-chloro-propyl-sulphonyl-amino)-3-methyl-benzoate
100 mg (0.61 mmol) methyl 4-amino-3-methyl-benzoate dissolved in 3 ml of pyridine are combined with 82 μl (0.67 mmol) 3-chloropropanesulphonic acid chloride and stirred for 16 hours at ambient temperature. The reaction solution is combined with water and ethyl acetate and then the aqueous phase is again extracted with ethyl acetate. The combined organic phases are dried over sodium sulphate and evaporated down i. vac. The residue is further reacted without any more purification.

reactant | methyl 4-amino-3-methyl-benzoate | 0.61 mmol, 100 mg | NC1=C(C=C(C(=O)OC)C=C1)C | C9H11NO2
reactant | 3-chloropropanesulphonic acid chloride | 0.67 mmol, 82 μl | ClCCCS(=O)(=O)Cl | C3H6Cl2O2S
reactant | water | O | H2O
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | pyridine | 3 ml | N1=CC=CC=C1 | C5H5N
product | methyl 4-(3-chloro-propyl-sulphonyl-amino)-3-methyl-benzoate | ClCCCS(=O)(=O)NC1=C(C=C(C(=O)OC)C=C1)C | C12H16ClNO4S
